US07635715B2
Step E: Preparation of 1,1-Dimethylethyl N-((4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate
Ethyl 4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate (450 mg, 1488 μmol) was dissolved in 1,4-dioxane (1488 μL) and N-ethyl-N-isopropylpropan-2-amine (778 mL, 4465 μmol). tert-Butyl 2-aminoacetate hydrochloride (374 mg, 2233 μmol) was added, and the mixture was heated at 80° C. for 3 hours. The resulting mixture was then cooled to ambient temperature, diluted with 100 mL of EtOAc, added to a separatory funnel, partitioned with NaHCO3 (saturated, aqueous), washed with NaHCO3 (saturated, aqueous) (2×75 mL), separated, dried over Na2SO4, and concentrated in vacuo to give the title compound (270 mg) as a white solid. MS m/e=388 (M+H)+.

reactant | Ethyl 4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-carboxylate | 1488 μmol, 450 mg | OC1=C(C(C2(CCOCC2)C2=CC=CC=C12)=O)C(=O)OCC | C17H18O5
reactant | N-ethyl-N-isopropylpropan-2-amine | 4465 μmol, 778 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | tert-Butyl 2-aminoacetate hydrochloride | 2233 μmol, 374 mg | Cl.NCC(=O)OC(C)(C)C
solvent | 1,4-dioxane | 1488 μL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1,1-Dimethylethyl N-((4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 270 mg | OC1=C(C(C2(CCOCC2)C2=CC=CC=C12)=O)C(=O)NCC(=O)OC(C)(C)C | C21H25NO6
